US08536187B2
To a mixture of Bis(pinacolato)diboron (2.13 g, 8.4 mmol), X-phos (0.053 g, 0.112 mmol), Pd(dba)3 (0.052 g, 0.06 mmol) and KOAc (0.824 g, 8.4 mmol) in dioxane (15 mL) at 110° C. was added a solution of 4-bromo-2-methansulfonyl-1-methoxymethyl-benzene (0.60 g, 2.8 mmol) in dioxane (5 mL) over 7 min. The reaction mixture was stirred at 110° C. for 5 hour, then cooled to room temperature and filtered through paper and a layer of diatomaceous earth. The filtrate was washed with twice with water and twice with brine. The organic layer was dried (Na2SO4), filtered, concentrated and purified by silica gel column chromatography to give 0.851 g of 2-(3-Methanesulfonyl-4-methoxymethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane.

reactant | Bis(pinacolato)diboron | 8.4 mmol, 2.13 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 8.4 mmol, 0.824 g | CC(=O)[O-].[K+]
reactant | 4-bromo-2-methansulfonyl-1-methoxymethyl-benzene | 2.8 mmol, 0.60 g | BrC1=CC(=C(C=C1)COC)S(=O)(=O)C | C9H11BrO3S
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | X-phos | 0.112 mmol, 0.053 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
product | 2-(3-Methanesulfonyl-4-methoxymethyl-phenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 0.851 g | CS(=O)(=O)C=1C=C(C=CC1COC)B1OC(C(O1)(C)C)(C)C | C15H23BO5S
